datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:20][O:35],7.397312
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[S:22][H:29])([H:23])([H:24])[H:25]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:20]([C:19]([H:23])([H:24])[H:25])([C:21]([H:26])([H:27])[H:28])[S:22][H:29],-7.9496
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([S:11][H:17])[C:12](=[S:13])[H:18])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:10]([C:9]([H:14])([H:15])[H:16])([S:11][H:17])[C:12](=[S:13])[H:18],90.3744
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19](=[C:20][C:21]([H:24])([H:25])[H:26])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[C:20](=[C:19]([H:22])[H:23])[C:21]([H:24])([H:25])[H:26])[H:9])([H:7])[H:8],14.1838
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([H:10])[H:11])[H:9]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:7](=[C:8]([H:10])[H:11])[H:9],4.184
[N:0]([O:1][H:4])([H:2])[H:3].[N:5]([H:6])[H:7]>>[H:4][N:5]([H:6])[H:7].[N:0]([O:1])([H:2])[H:3],7.90776
[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]2=[C:4]([H:14])[C:5]([H:15])=[C:6]([H:16])[C:7]([H:17])([H:18])[C:8]2=[C:9]1[H:19].[H:20]>>[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]2([H:20])[C:4]([H:14])[C:5]([H:15])=[C:6]([H:16])[C:7]([H:17])([H:18])[C:8]2=[C:9]1[H:19],12.1336
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([C:10]([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28])([H:18])([H:19])[H:20]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:10]([C:9]([H:18])([H:19])[H:20])([C:11]([H:21])([H:22])[H:23])[c:12]1[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]1[H:28],40.5848
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])=[C:8]([C:9]([H:22])([H:23])[H:24])[H:21])([H:16])[H:17])[H:15])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])=[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]([C:7]([H:18])([H:19])[H:20])[C:8]1([C:9]([H:22])([H:23])[H:24])[H:21])[H:12])([H:10])[H:11],127.277
[H:4].[O:0]([O:1][H:3])[H:2]>>[H:2][H:4].[O:0][O:1][H:3],33.2628
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23]([C:24]([H:27])([H:28])[H:29])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:14])[C:23]([C:24]([H:27])([H:28])[H:29])([H:25])[H:26])[H:13])([H:11])[H:12],20.8363
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[H:9])([H:7])[H:8])([H:5])[H:6].[O:16][O:17]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[H:9])([H:7])[H:8])([H:5])([H:6])[O:16][O:17],0.8313608
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])([C:10]([H:18])([H:19])[H:20])[H:14])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:14])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[C:10]([H:18])([H:19])[H:20])[H:13])([H:11])[H:12],21.3384
[C:0]1([H:6])[C:1]([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]1([H:13])[H:14]>>[C:0]1([H:6])=[C:5]([H:14])[C:4]([H:11])([H:12])[C:3]([H:10])=[C:2]([H:9])[C:1]1([H:7])[H:8].[H:13],139.720496
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([O:4][H:12])[H:8])[H:7])([H:5])[H:6].[H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:5])[H:6].[O:4]([H:12])[H:13],64.6742
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13][O:14]>>[C:0]([C:1]([C:2]([C:3]([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:13][O:14],205.6436
[C:3]([S:4][H:7])([H:5])[H:6].[S:0]([H:1])[H:2]>>[H:1][C:3]([S:4][H:7])([H:5])[H:6].[S:0][H:2],5.0208
